US07192968B2
(±)-cis-N1-[(5-Chloroindol-2-yl)carbonyl]-N2-[(5-methanesulfonyl-4,5,6,7-tetrahydrothiazolo[5,4-c]-pyridin-2-yl)carbonyl]-1,2-cyclohexanediamine
(±)-cis-N1-[(5-chloroindol-2-yl)carbonyl]-N2-[(4,5,6,7-tetrahydrothiazolo[5,4-c]pyridin-2-yl)-carbonyl]-1,2-cyclohexanediamine hydrochloride (100 mg) was dissolved in pyridine (3 ml), triethylamine (168 μl) and methanesulfonyl chloride (48 μl) were added, and the mixture was stirred overnight at room temperature. The reaction mixture was concentrated under reduced pressure, and dichloromethane and 1N hydrochloric acid were added to the residue to separate an organic layer. The resultant organic layer was dried over anhydrous sodium sulfate. The solvent was distilled off under reduced pressure, and the residue was purified by column chromatography on silica gel (dichloromethane:methanol=100:1) to obtain the title compound (79 mg) as a pale yellow foamy substance.

reactant | (±)-cis-N1-[(5-chloroindol-2-yl)carbonyl]-N2-[(4,5,6,7-tetrahydrothiazolo[5,4-c]pyridin-2-yl)-carbonyl]-1,2-cyclohexanediamine hydrochloride | 100 mg | Cl.ClC=1C=C2C=C(NC2=CC1)C(=O)N[C@H]1[C@H](CCCC1)NC(=O)C=1SC=2CNCCC2N1
reactant | triethylamine | 168 μl | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 48 μl | CS(=O)(=O)Cl | CH3ClO2S
solvent | pyridine | 3 ml | N1=CC=CC=C1 | C5H5N
product | (±)-cis-N1-[(5-Chloroindol-2-yl)carbonyl]-N2-[(5-methanesulfonyl-4,5,6,7-tetrahydrothiazolo[5,4-c]-pyridin-2-yl)carbonyl]-1,2-cyclohexanediamine | 79 mg | ClC=1C=C2C=C(NC2=CC1)C(=O)N[C@H]1[C@H](CCCC1)NC(=O)C=1SC=2CN(CCC2N1)S(=O)(=O)C | C23H26ClN5O4S2
